* source NOT
V_V2         VIN 0 0V
V_V1         N00017 0 1.8V
M_M2         VOUT VIN 0 0 MbreakND  
+ L=180n  
+ W=240n    
+ PD=960n  
+ PS=960n     
M_M1         VOUT VIN N00017 N00017 MbreakPD  
+ L=180n  
+ W=1200n    
+ PD=960n  
+ PS=960n     
