* source NOT
V_V1         N00044 0 1.8V
V_V2         A 0  
+PULSE 0 1.8 0 100p 100p 400p 1n
V_V3         B 0  
+PULSE 0 1.8 0 100p 100p 900p 2n
M_NOR1_M4         NOR1_N00673 A N00044 N00044 MbreakPD  
+ L=180n  
+ W=2400n    
+ PD=5280n  
+ PS=5280n     
M_NOR1_M2         ZNOR B 0 0 MbreakND  
+ L=180n  
+ W=240n    
+ PD=960n  
+ PS=960n     
M_NOR1_M1         ZNOR A 0 0 MbreakND  
+ L=180n  
+ W=240n    
+ PD=960n  
+ PS=960n     
M_NOR1_M3         ZNOR B NOR1_N00673 N00044 MbreakPD  
+ L=180n  
+ W=2400n    
+ PD=5280n  
+ PS=5280n     
M_NAND1_M3         ZNAND A N00044 N00044 MbreakPD  
+ L=180n  
+ W=1200n    
+ PD=2880n  
+ PS=2880n     
M_NAND1_M4         ZNAND B N00044 N00044 MbreakPD  
+ L=180n  
+ W=1200n    
+ PD=2880n  
+ PS=2880n     
M_NAND1_M2         NAND1_N00011 A 0 0 MbreakND  
+ L=180n  
+ W=480n    
+ PD=1440n  
+ PS=1440n     
M_NAND1_M1         ZNAND B NAND1_N00011 0 MbreakND  
+ L=180n  
+ W=480n    
+ PD=1440n  
+ PS=1440n     
M_NOT1_M1         ZNOT ZNAND N00044 N00044 MbreakPD  
+ L=180n  
+ W=1200n    
+ PD=2880n  
+ PS=2880n     
M_NOT1_M2         ZNOT ZNAND 0 0 MbreakND  
+ L=180n  
+ W=240n    
+ PD=960n  
+ PS=960n     
